US08580762B2
Step 4: Synthesis of methyl 2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)acetate
A solution of methyl 2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)acetate (267 mg, 0.459 mmol) in methanol (12 mL) was treated with sodium cyanoborohydride (380 mg, 6.1 mmol). The pH of the solution was adjusted to ˜6 by the dropwise addition of a 10% (v/v) solution of glacial acetic acid in methanol. The mixture was treated with 37% formaldehyde (0.57 mL, 7.6 mmol) dropwise and the mixture was stirred at room temperature for 1 h at which time, HPLC indicated the starting material was consumed. The reaction mixture was concentrated to remove the methanol. The aqueous solution that remained was diluted with 25 mL NaHCO3 and the aqueous phase was extracted with three 20 mL portions of CH2Cl2. The organic phase was washed with 20 mL sat NaHCO3, dried over Na2SO4, filtered and concentrated to yield the title compound (272 mg, 100%) as a colorless stiff foam which was found to be of sufficient purity for use in the next step: MS (ESI+) for C31H41N5O7 m/z 596.5 (M+H)+; HPLC purity >95% (ret. time, 2.89 min).

reactant | methyl 2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)acetate | 0.459 mmol, 267 mg | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CNC2CC(C2)CC(=O)OC)C=CC(=C1)OC | C30H39N5O7
reactant | sodium cyanoborohydride | 6.1 mmol, 380 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 7.6 mmol, 0.57 mL | C=O | CH2O
solvent | methanol | 12 mL | CO | CH4O
product | methyl 2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)acetate | 272 mg, 100% | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CN(C2CC(C2)CC(=O)OC)C)C=CC(=C1)OC | C31H41N5O7
